US06458781B1
Preparation of (S)-4-Methyl-piperazine-1-carboxylic acid {1-[4,4-bis-(4-fluoro-phenyl)-butylcarbamoyl]-3-methyl-butyl)-amide
(S)-2-[(4-Methyl-piperazine-1-carbonyl)-amino]-4-methyl pentanoic acid (0.300 g, 1.23 mmol) was dissolved in dry DMF (4 mL) under nitrogen atmosphere and cooled to 0° C. in an ice-water bath. To this solution were added, in succession, N,N-diisopropylethylamine (0.644 mL, 3.70 mmol) and solid O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.468 g, 1.23 mmol). The resulting reaction mixture was stirred at that temperature for 30 minutes; solid 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride (0.367 g, 1.23 mmol) was then added. After stirring for, sequentially, 10 minutes at 0° C. and 20 minutes at ambient temperature, reaction mixture was mixed with 60 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (2×60 mL), brine (2×60 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording an viscous oil. The crude product was further purified by flash chromatography (20% MeOH in EtOAc) to afford 0.45 g (73%) of the pure titled compound as a white foam; mp 73-91° C. APCI-MS m/z 501.3 (MH+).

reactant | (S)-2-[(4-Methyl-piperazine-1-carbonyl)-amino]-4-methyl pentanoic acid | 1.23 mmol, 0.300 g | CN1CCN(CC1)C(=O)N[C@H](C(=O)O)CC(C)C | C12H23N3O3
reactant | N,N-diisopropylethylamine | 3.70 mmol, 0.644 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.23 mmol, 0.468 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 1.23 mmol, 0.367 g | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | (S)-4-Methyl-piperazine-1-carboxylic acid {1-[4,4-bis-(4-fluoro-phenyl)-butylcarbamoyl]-3-methyl-butyl)-amide | 0.45 g, 73% | FC1=CC=C(C=C1)C(CCCNC(=O)[C@H](CC(C)C)NC(=O)N1CCN(CC1)C)C1=CC=C(C=C1)F | C28H38F2N4O2
